US05571775
18. Preparation of 2-Benzylthio-8-nitro[1,2,4]triazolo[1,5-a]pyridine
2-Hydrazino-3-nitropyridine (95.2 g, 0.618 mol) was combined with acetonitrile (1 L) and carbon disulfide (114 mL, 143.9 g, 1.89 mol) was added. The resulting mixture was stirred for 1.5 hours. Hydrogen peroxide (78.6 mL of 30 percent aqueous solution, 23.6 g, 0.693 mol) was added dropwise over a 20-min period with cooling at 15°-20° C. The mixture was stirred for another 2 hours and was then cooled in an ice bath. Benzyl chloride (91.7 g, 0.72 mol) was added and then triethylamine (110 mL, 79.6 g, 0.79 mol) was added slowly with stirring over a 2-hour period. The reaction was exothermic. The mixture was stirred at room temperature over the weekend. The volatiles were removed by evaporation under reduced pressure and the residue obtained was diluted with dichloromethane and water. The resulting mixture was filtered through Celite® to remove the precipitated sulfur. The organic phase of the filtrate was recovered, washed with water, and concentrated by evaporation under reduced pressure. The solid residue obtained was diluted with hexane, recovered by filtration, and dried to obtain 174.0 g (98 percent of theory) of the title compound as a brown powder melting at 125°-126° C.(d).

reactant | 2-Hydrazino-3-nitropyridine | 0.618 mol, 95.2 g | N(N)C1=NC=CC=C1[N+](=O)[O-] | C5H6N4O2
reactant | carbon disulfide | 1.89 mol, 114 mL, 143.9 g | C(=S)=S | CS2
reactant | Hydrogen peroxide | 0.693 mol, 78.6 mL, 23.6 g | OO | H2O2
reactant | Benzyl chloride | 0.72 mol, 91.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triethylamine | 0.79 mol, 110 mL, 79.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | 2-Benzylthio-8-nitro[1,2,4]triazolo[1,5-a]pyridine | C(C1=CC=CC=C1)SC1=NN2C(C(=CC=C2)[N+](=O)[O-])=N1 | C13H10N4O2S
